US05326868
A mixture of anthranilamide (11.8 g), potassium carbonate (20 g), ethyl bromoacetate (18 g) and dimethylformamide (50 mL) was heated at reflux for 40 min. The reaction mixture was diluted with water and the product was extracted with ether. The organic layer was washed with water and brine, dried over magnesium sulfate and the solvent was removed in vacuo. The residue was recrystallized from ethanol to afford N-(2-Cyanophenyl)glycine ethyl ester as a colorless solid.

reactant | anthranilamide | 11.8 g | C(C=1C(N)=CC=CC1)(=O)N | C7H8N2O
reactant | potassium carbonate | 20 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 18 g | BrCC(=O)OCC | C4H7BrO2
reactant | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | N-(2-Cyanophenyl)glycine ethyl ester | C(C)OC(CNC1=C(C=CC=C1)C#N)=O | C11H12N2O2
